US07320992B2
Step A—Preparation of 3-nitro-phthalic acid 2-methyl ester
4-Nitro-isobenzofuran-1,3-dione (10.0 g, 51.8 mmol) in 50 mL of anhydrous MeOH was heated to reflux under N2 overnight. The mixture was cooled to RT, poured into ice-cold water, and the precipitates were collected by filtration, then dried to give the titled compound as a white solid.

reactant | 4-Nitro-isobenzofuran-1,3-dione | 51.8 mmol, 10.0 g | [N+](=O)([O-])C1=C2C(OC(C2=CC=C1)=O)=O | C8H3NO5
reactant | MeOH | 50 mL | CO | CH4O
product | 3-nitro-phthalic acid 2-methyl ester | COC(C=1C(C(=O)O)=CC=CC1[N+](=O)[O-])=O | C9H7NO6
